US09351974B2
Step f: 3-[(7S)-8-cyclopentyl-2-[(7-fluoro-1H-indazol-5-yl)amino]-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile
This compound was prepared from 3-[(7S)-2-chloro-8-cyclopentyl-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile and 7-fluoro-1H-indazol-5-amine, according to procedures similar to step e for the preparation of Example 18.

reactant | 3-[(7S)-2-chloro-8-cyclopentyl-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=C(C#N)C=CC1)=O)CF)C1CCCC1 | C19H17ClFN5O
reactant | 7-fluoro-1H-indazol-5-amine | FC=1C=C(C=C2C=NNC12)N | C7H6FN3
product | 3-[(7S)-8-cyclopentyl-2-[(7-fluoro-1H-indazol-5-yl)amino]-7-(fluoromethyl)-6-oxo-7,8-dihydropteridin-5(6H)-yl]benzonitrile | C1(CCCC1)N1[C@@H](C(N(C=2C=NC(=NC12)NC=1C=C2C=NNC2=C(C1)F)C=1C=C(C#N)C=CC1)=O)CF | C26H22F2N8O
